US08895571B2
Step B: tert-butyl ((1S)-2-hydroxy-1-{3-[(trimethylsilyl)ethynyl]benzyl}ethyl)carbamate
tert-Butyl [(1S)-2-hydroxy-1-(3-iodobenzyl)ethyl]carbamate (1.0 g, 2.6 mmol), copper(I) iodide (0.020 g, 0.11 mmol), bis(triphenylphosphine)palladium(II) chloride (0.074 g, 0.11 mmol), tetrahydrofuran (7 mL), and triethylamine (0.41 mL, 2.9 mmol) were combined. The reaction mixture was stirred under N2 for 5 min. (Trimethylsilyl)acetylene (1.1 mL, 8.0 mmol) was then added. The reaction mixture was stirred at 65° C. for 1 h, then evaporated under vacuum. The residue was purified by combi-flash chromatography to give 0.84 g (91% yield) of the desired product as light brown solid. LC-MS found: 248.0 (M−Boc+H)+.

reactant | tert-Butyl [(1S)-2-hydroxy-1-(3-iodobenzyl)ethyl]carbamate | 2.6 mmol, 1.0 g | OC[C@H](CC1=CC(=CC=C1)I)NC(OC(C)(C)C)=O | C14H20INO3
reactant | triethylamine | 2.9 mmol, 0.41 mL | C(C)N(CC)CC | C6H15N
reactant | (Trimethylsilyl)acetylene | 8.0 mmol, 1.1 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | copper(I) iodide | 0.11 mmol, 0.020 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.11 mmol, 0.074 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | tert-butyl ((1S)-2-hydroxy-1-{3-[(trimethylsilyl)ethynyl]benzyl}ethyl)carbamate | 0.84 g, 91% yield | OC[C@H](CC1=CC(=CC=C1)C#C[Si](C)(C)C)NC(OC(C)(C)C)=O | C19H29NO3Si
